US04521599
A solution of 1-methyl-6-phenyluracil (0.65 g) in dimethylformamidine (15 ml) is treated with 10 percent palladium on carbon and reduced at 40 p.s.i. for 20 hours. The catalyst is then filtered and the filtrate evaporated to a crystalline residue. The crystallization from acetonitrile provides 5,6-dihydro-1-methyl-6-phenyl-2,4-pyrimidine-dione, m.p. 155°-6° C.

reactant | 1-methyl-6-phenyluracil | 0.65 g | CN1C(=O)NC(=O)C=C1C1=CC=CC=C1 | C11H10N2O2
solvent | dimethylformamidine | 15 ml | CN(C=N)C | C3H8N2
catalyst | palladium on carbon | [Pd] | Pd
product | 5,6-dihydro-1-methyl-6-phenyl-2,4-pyrimidine-dione | CN1C(NC(CC1C1=CC=CC=C1)=O)=O | C11H12N2O2
